US06458772B1
a) N1-[(1S,2R)-2-Hydroxy-2,3-dihydro-1H-1-indenyl]-N6-[(1S)-2-methyl-1-(methylcarbamoyl)propyl]-(2R,3R,4R,5R)-2,5-di[4-(2-thiazolyl)benzyloxy]-3,4-dihydroxyhexanediamide
A mixture of N1-[(1S,2R)-2-hydroxy-2,3-dihydro-1H-1-indenyl]-N6-[(1S)2-methyl-1-(methylcarbamoyl)propyl]-(2R,3R,4R,5R)-2,5-di(4-bromobenzyloxy)-3,4-dihydroxyhexanediamide, prepared analagously to Example 11 of WO98/45330 using 4-bromobenzyl (130 mg, 0.164 mmol), tributyl-2-thiazolyltin (554 mg, 1.47 mmol), PdCl2(PPh3)2 (120 mg, 0.5 M suspension in DMF), and dry DMF (3 ml) was twice degassed and flushed with argon and then stirred at 90° C./16 h, evaporated to near dryness, washed with a little ether and purified by silica gel column chromatography (chloroform-methanol 20:1) to yield 95.5 mg (73%) of off-white solid.

reactant | N1-[(1S,2R)-2-hydroxy-2,3-dihydro-1H-1-indenyl]-N6-[(1S)2-methyl-1-(methylcarbamoyl)propyl]-(2R,3R,4R,5R)-2,5-di(4-bromobenzyloxy)-3,4-dihydroxyhexanediamide | O[C@H]1[C@H](C2=CC=CC=C2C1)NC([C@@H]([C@@H]([C@H]([C@H](C(=O)N[C@@H](C(C)C)C(NC)=O)OCC1=CC=C(C=C1)Br)O)O)OCC1=CC=C(C=C1)Br)=O | C35H41Br2N3O8
reactant | tributyl-2-thiazolyltin | 1.47 mmol, 554 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
catalyst | PdCl2(PPh3)2 | 0.5 M, 120 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N1-[(1S,2R)-2-Hydroxy-2,3-dihydro-1H-1-indenyl]-N6-[(1S)-2-methyl-1-(methylcarbamoyl)propyl]-(2R,3R,4R,5R)-2,5-di[4-(2-thiazolyl)benzyloxy]-3,4-dihydroxyhexanediamide | 95.5 mg, 73% | O[C@H]1[C@H](C2=CC=CC=C2C1)NC([C@@H]([C@@H]([C@H]([C@H](C(=O)N[C@@H](C(C)C)C(NC)=O)OCC1=CC=C(C=C1)C=1SC=CN1)O)O)OCC1=CC=C(C=C1)C=1SC=CN1)=O | C41H45N5O8S2
